Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, leg swelling
 
Major Surgical or Invasive Procedure:
G-tube replacement (___)
PICC line placement (___)

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of Childs C 
alcoholic cirrhosis c/b ascites, HE, SBP, and HRS as well as 
Roux-en-Y gastric bypass c/b recurrent anastomotic strictures 
requiring multiple endoscopic dilations and abdominal surgeries 
for bowel anastomosis complications who was recently admitted 
from ___ for persistent obstructive symptoms and 
malnutrition, found to have an ileus and discharged on TPN who 
presents to the ___ with weight gain, abdominal pain, and 
vomiting. 

The patient reports several weeks of worsening abdominal and 
lower extremity swelling. The swelling has worsened her chronic 
abdominal pain and she now describes a diffuse pain that feels 
like her abdomen is stretching. She also reports two episodes of 
non-bloody vomiting, once last night and once today. Per 
records, her weight at last admission was 212 lbs; she went down 
to 173 lbs during the hospitalization, and discharge weight was 
214 lbs after her diuretics were held in the setting of ___. 
During a follow-up apt on ___ weight was still up, at which 
time Lasix was increased from 20 mg to 40 mg and spironolactone 
from 25 mg to 50 mg. She continued to have swelling and new 
vomiting overnight so presented to the ED today. She otherwise 
reports some mild shortness of breath and orthopnea. No cough, 
chest pain, fever, chills, confusion, constipation, melena, or 
blood in her stools. Last BM this morning. Also reports venting 
her G/J-tube frequently without improvement of her abdominal 
pain. 

Of note, the patient was recently discharged on ___ 
following a one month admission for nausea, vomiting, and 
inability to tolerated tube feeds. A percutaneous G/J tube check 
showed the gastrostomy and jejunostomy tubes were in the 
appropriate positions without evidence of obstruction. She was 
eventually
diagnosed with an ileus and started on TPN on ___. She was 
discharged on trickle tube feeds at a rate of 5 cc/hr. Her 
hospital course was also complicated by cellulitis around her 
G-tube, treated with doxycycline x 7 days. 
 
In the ED, initial vitals were T97.9, HR 86, BP 96/53, RR 18, 
SaO2 98% on RA  

Labs were notable for: 
H/H of 7.6/23.7, Plts 93, Lactate of 2.2, Tbili of 2.7, Albumin 
of 2.7, proBNP 1666, ___ 22.7, PTT 42.0, INR 2.1  

Imaging was notable for: 
CXR: Chronic left-sided loculated effusion. 
CT A/P: limited study with evidence of stable dilatation of 
small bowel loops without obvious obstruction, stable moderate 
hydronephrosis, pleural effusions. Bedside ultrasound indicated 
no tappable fluid.  

Hepatology was consulted and recommended discharge home given 
lack of acute issues, with plan to follow up with the liver 
clinic on ___. However, patient continued to have significant 
pain, nausea, and given need for pain/nausea control and 
uptitration of diuretics, decision was made to admit to ___.  

Patient was given:  
-IV Morphine Sulfate 4 mg x2  
-Midodrine 5 mg x2  
-Lactulose 30 mL  
-Rifaximin 550 mg x2  
-NS 50 mL/hr  
-IV Ondansetron 4 mg  
-Lactulose 30 mL  
-Polyethylene Glycol 17 g  
-Senna 8.6 mg  
-Bisacodyl 10 mg  
-FoLIC Acid 1 mg  
-LevETIRAcetam 1000 mg  
-PO Pantoprazole 40 mg  
-Thiamine 100 mg  
-IV LORazepam .25 mg  

Transfer vitals were: 97.9F BP 117/69 HR 92 RR 20 95% on Ra 

Upon arrival to the floor, patient reports she continues to have 
diffuse abdominal pain. No recent vomiting. She also describes 
significant swelling over her lower extremities. 

 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications  

 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS:  97.9F BP 117/69 HR 92 RR 20 95% on Ra 
Weight: 245.6 lbs    
GENERAL: NAD. Cachetic appearing. Lying comfortably in bed.  
HEENT: NC/AT. No conjunctival pallor or scleral icterus, pupils 
equal and round, EOMI. 
NECK: Supple, JVD to mandible.   
HEART: RRR with normal S1 and S2. II/VI SEM heard throughout, 
best over the left sternal border. No rubs or gallops. 
LUNGS: Normal respiratory effort. CTAB over anterior chest 
without wheezes, rales or rhonchi. Decreased BS over lateral 
fields bilaterally. Pt unwilling to accommodate examination of 
back. 
ABDOMEN: Soft, obese. Mildly distended. Diffuse TTP to light
palpation. Voluntary guarding. Normoactive BS. G/J tube site 
without drainage or surrounding erythema. 
EXTREMITIES: Warm. ___ pitting BLE edema up to mid thigh. 
SKIN: No rashes. 
NEUROLOGIC: A&Ox3. Moves all extremities. No asterixis. 

DISCHARGE PHYSICAL EXAM:
=========================
VS: T97.8, BP 108/61, P82, RR18, Po296% RA
GENERAL: NAD. Cachetic. Lying comfortably in bed.  
HEENT: No conjunctival pallor or scleral icterus.
HEART: RRR, S1+S2. III/VI SEM heard throughout, best over the
LLSB. No rubs or gallops. 
LUNGS: CTAB, no W/R/C
ABDOMEN: moderately distended, firm, irregular topography. Mild
TTP diffusely. G/J site with clean bandage, mild drainage, no
erythema
EXTREMITIES: Warm. 1+ pitting BLE edema up to mid shins. No
erythema.
SKIN: No rashes. 
NEUROLOGIC: A&Ox3. Moves all extremities. No asterixis.  
 
Pertinent Results:
ADMISSION LABS:
================
___ 06:25PM BLOOD WBC-7.2 RBC-2.10* Hgb-7.6* Hct-23.7* 
MCV-113* MCH-36.2* MCHC-32.1 RDW-21.6* RDWSD-86.7* Plt Ct-93*
___ 06:25PM BLOOD Neuts-74.7* Lymphs-13.4* Monos-10.7 
Eos-0.7* Baso-0.1 Im ___ AbsNeut-5.40 AbsLymp-0.97* 
AbsMono-0.77 AbsEos-0.05 AbsBaso-0.01
___ 06:25PM BLOOD Glucose-95 UreaN-18 Creat-0.8 Na-140 
K-3.8 Cl-98 HCO3-30 AnGap-12
___ 06:25PM BLOOD ALT-13 AST-39 AlkPhos-92 TotBili-2.7*
___ 06:25PM BLOOD Lipase-25
___ 06:25PM BLOOD proBNP-1666*
___ 06:25PM BLOOD Albumin-2.7* Calcium-8.6 Phos-3.9 Mg-2.0
___ 06:36PM BLOOD Lactate-2.2*

PERTINENT LABS:
======================
___ 06:25PM BLOOD Lipase-25
___ 06:25PM BLOOD proBNP-1666*
___ 06:36PM BLOOD Lactate-2.2*
___ 10:09PM BLOOD Lactate-1.2
___ 04:50PM BLOOD ZINC- 31*      
___ 04:50PM BLOOD COPPER (SERUM)- 75

MICRO:
=======  
___ BCx: No growth 
___ BCx: 
 _________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------ <=0.5 S

___ Wound culture:  MIXED BACTERIAL FLORA
___ Blood cultures: No growth
___ urine culture: No growth

DISCHARGE LABS:
===============
___ 05:31AM BLOOD WBC-6.9 RBC-2.00* Hgb-7.2* Hct-22.5* 
MCV-113* MCH-36.0* MCHC-32.0 RDW-20.9* RDWSD-85.0* Plt Ct-74*
___ 05:31AM BLOOD ___ PTT-35.4 ___
___ 05:31AM BLOOD Glucose-138* UreaN-31* Creat-0.8 Na-135 
K-4.0 Cl-97 HCO3-29 AnGap-9
___ 05:31AM BLOOD ALT-20 AST-42* AlkPhos-94 TotBili-2.0*
___ 05:31AM BLOOD Calcium-8.8 Phos-3.2 Mg-1.9

PERTINENT IMAGING:
====================
___ CXR:
Left-sided PICC terminates in the low SVC without evidence of 
pneumothorax. 
Left lower lobe opacity corresponds to chronic loculated pleural 
fluid and 
atelectasis as seen on abdominal CT. Left mid lung 
atelectasis/scarring is 
seen. Cardiac and mediastinal silhouettes are stable. 
  
No overt pulmonary edema. 

___ CT Abd/pelvis:
1. Of note, this is a suboptimal study due to body habitus.  
Within these 
limitations, diffuse dilatation of multiple small bowel loops 
are again noted without definite transition point. 
2. Moderate hydronephrosis is again seen without definite source 
of 
obstruction, similar to the prior study on ___. 
3. Postsurgical changes are noted following Roux-en-Y gastric 
bypass.  
Incidental note is made of a G-tube and a J-tube. 
4. Consolidations are seen in the left lower lobe, which can be 
concerning for infection in the appropriate clinical setting. 
5. Small loculated left pleural effusions unchanged. 
6. Splenomegaly and cholelithiasis. 
7. Diffuse anasarca, unchanged. 

___ TTE:
IMPRESSION: Biatrial enlargement. Mildly dilated left ventricle 
with preserved biventricular systolic function. Mildly dilated 
right ventricle with preserved function. Mild pulmonary artery 
systolic hypertension. Ascites is present. 

___ Abdominal US:
Somewhat limited evaluation secondary to poor patient tenderness 
and poor 
acoustic windows.  No definite collection identified around the 
entry sites of the J-tube or G-tube. 

___ Gastrostomy tube exchange: 
1.  Appropriately positioned new 16 ___ MIC gastrostomy tube.

___ Abd xray:
Probable ileus, grossly unchanged.  No gross free air.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of alcoholic 
cirrhosis c/b ascites, HE, SBP, and HRS as well as Roux-en-Y 
gastric bypass c/b recurrent anastomotic strictures requiring 
multiple endoscopic dilations c/b perforation requiring multiple 
abdominal surgeries. She is now s/p multiple admissions, most 
recently from ___ for persistent obstructive symptoms and 
malnutrition, found to have an ileus and discharged on 
TPN/trickle feeds, readmitted with volume overload, found to 
have likely PICC-associated enterococcus bacteremia.

#Anasarca: Patient presented with anasarca and 50 pound weight 
gain in the last month. Likely due to cirrhosis and low protein 
from malnutrition. Pt diuresed with high doses of torsemide and 
spironolactone back to dry weight (92.53 kg/ 203.99 lb on 
discharge). Discharged on 100mg spironolactone and 40mg 
torsemide daily.

#Enterococcus Bacteremia: Blood cultures on admission grew 
vancomycin sensitive enterococcus from PICC line. PICC was 
discontinued and patient was switched from vanc -> daptomycin on 
___ (given history of VRE) and narrowed back to vancomycin 
(___) after return of cultures. She had a murmur on exam (old); 
TTE this admission without obvious vegetation. Otherwise, HD 
stable. PICC line replaced on ___. Repeat cultures were 
negative following the start of antibiotics. She ultimately 
completed 2 weeks of vancomycin on ___. Discharged off 
antibiotics. Attempted to increase tube feeds repeatedly during 
admission, with the hope of getting enough nutrition through 
tube feeds that TPN and PICC line could be discontinued, but 
unable to tolerate tube feeds at a high enough rate to be 
sufficient as singular source of nutrition, and thus PICC 
remained in place on discharge.

#Decompensated ETOH Cirrhosis: History of Childs C cirrhosis c/b 
ascites, HE, SBP, and HRS. MELD-Na 18 on admission, Childs C. 
Grossly overloaded. No varices on last EGD in ___. Hgb slowly 
trended down, s/p 1u pRBC on ___ with appropriate response. 
Stable upon discharge. No signs of active GI bleed. No signs of 
SBP or HE. Etiology of chronic decompensated state likely 
multifactorial, from large TPN volumes, malnutrition, and 
bacteremia this admission. Continued lactulose and rifaximin 
550mg BID, pantoprazole 40 mg daily, midodrine 5 mg TID, Bactrim 
ppx. As per above, pt discharged on 100mg spironolactone and 
40mg torsemide daily.

#Cellulitis: Noted to have erythema with purulent discharge 
around G/J tube. Previously treated for cellulitis during last 
hospitalization with doxycycline 100 mg BID x 7 days. Obtained 
culture and started vancomycin ___, briefly on daptomycin given 
history of VRE, but narrowed back to vancomycin as of ___. 
Completed 2 weeks of treatment on ___ (duration of therapy 
was for bacteremia, but more than adequate for cellulitis). 
Wound culture grew mixed flora. Ultrasound unremarkable. 
Erythema resolved and drainage improved following upsize of 
G-tube and antibiotic therapy.

#Abdominal pain: Acute on chronic abdominal pain. CT abdomen 
limited this admission, but showed diffuse dilation of small 
bowel, similar to previous studies, and no signs of infection. 
Surgery evaluated in ED and felt there was no acute change in 
abdominal pain. Remained HD stable and without leukocytosis. 
Likely worsened by volume overload and acutely worsened with 
tube feeds at rates > 45cc/hr. Discharged with tube feeds 
running at 45cc/hr. Seen by GI motility team who recommended a 
trial of methylnatrexone x 3 days, which appeared to help 
(slightly) with the patient's abdominal pain and motility. 
Methylnatrexone 12mg subQ daily was prescribed for the patient 
to continue taking as an outpatient, and she was able to 
successfully inject herself prior to discharge. Otherwise, 
discharged without changes to home regimen (tramadol 100 mg BID, 
hyoscyamine 0.125 mg QID prn, metoclopramide 10 mg q6h, 
simethicone prn). She will follow-up with the motility team as 
an outpatient.

#Malnutrition: PICC initially placed ___ and TPN started ___ 
in the setting an ileus and poor po intake. Had also been on 
trickle tube feeds Osmolite 1.5 @ 5 ml/hr at home, prior to 
admission. She reported minimal po intake and presented 
dependent on TPN. TPN stopped ___ after ___ pulled given 
bacteremia, restarted ___ after a new PICC was placed. Tube 
feeds were slowly titrated up. She did not tolerate feeds >60 
cc/hr and was ultimately discharged on TPN through PICC and tube 
feeds at 60 cc/hr.

#Anemia: Hgb 7.4 on admission, stable from baseline ___. Likely 
multifactorial given liver disease, poor nutrition, and chronic 
illness in general. Previous hemolysis labs negative. Iron 
studies showed elevated ferritin, low TIBC, low transferrin, low 
normal iron, overall consistent with anemia of 
inflammation/chronic disease. Received 1U pRBCs during admission 
with appropriate response.

CHRONIC/STABLE/RESOLVED ISSUES:
================================
#Loculated pleural effusion. Noted to have chronic loculated 
pleural effusion and atelectasis on CXR and CT abd. Patient 
reports mild SOB but without cough, fever, or chills. Low 
concern for PNA, antibiotics were not given for this issue. 

#Depression/anxiety: Continued home escitalopram 20 mg daily.

#Seizures: Continued home keppra 1000mg BID.

DISCHARGE LABS:
MELD-Na: 18
Cr: 0.8
Weight: 92.53 kg/ 203.99 lb

TRANSITIONAL ISSUES:
====================
[ ] Continue methylnaltrexone 12mg subQ daily. Will be seen by 
___ motility specialist (Dr ___ as an outpatient for 
ongoing management of this issue. Prior authorization was 
obtained for this medication through ___ 
(___) on ___, good for 12 months.
[ ] Discharged on with tube feeds through G tube and TPN through 
RUE ___ (failed many attempts to increase tube feeds with the 
hopes of stopping TPN, but pt could not tolerate tube feeds at a 
sufficient rate such that tube feeds alone would be sufficient 
to meet her nutritional needs.
[ ] Discharge diuretic regimen: 100mg spironolactone and 40mg 
torsemide daily
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Lactulose 30 mL PO Q6H 
4. Midodrine 5 mg PO TID 
5. Rifaximin 550 mg PO BID 
6. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
7. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
8. TraMADol 100 mg PO BID 
9. Pantoprazole 40 mg PO Q24H 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 8.6 mg PO BID 
12. Simethicone 40-80 mg PO QID:PRN gas pain 
13. Metoclopramide 10 mg PO Q6H 
14. Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
15. Hyoscyamine 0.125 mg SL QID PRN abdominal pain 
16. Bisacodyl 10 mg PO/PR DAILY 
17. Thiamine 100 mg PO DAILY 
18. Multivitamins 1 TAB PO DAILY 
19. FoLIC Acid 1 mg PO DAILY 
20. LevETIRAcetam Oral Solution 1000 mg PO BID 
21. Spironolactone 50 mg PO DAILY 

 
Discharge Medications:
1.  Methylnaltrexone 12 mg Subcut DAILY 
RX *methylnaltrexone [Relistor] 12 mg/0.6 mL 12 mg subQ Once a 
day Disp #*21 Syringe Refills:*0 
2.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg Two tablet(s) by mouth Once a day Disp #*60 
Tablet Refills:*0 
3.  Spironolactone 200 mg PO DAILY 
RX *spironolactone 100 mg One tablet(s) by mouth Once a day Disp 
#*30 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
5.  Bisacodyl 10 mg PO/PR DAILY  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Hyoscyamine 0.125 mg SL QID PRN abdominal pain  
9.  Lactulose 30 mL PO Q6H  
10.  LevETIRAcetam Oral Solution 1000 mg PO BID  
11.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube  

12.  Metoclopramide 10 mg PO Q6H  
13.  Midodrine 5 mg PO TID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Pantoprazole 40 mg PO Q24H  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Senna 8.6 mg PO BID  
19.  Simethicone 40-80 mg PO QID:PRN gas pain  
20.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  
21.  Thiamine 100 mg PO DAILY  
22.  TraMADol 100 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Primary: Decompensated cirrhosis, Enterococcus bacteremia 
#Secondary: Malnutrition, Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were retaining a lot of fluid. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were treated with water pills (diuretics - specifically, 
torsemide and spironolactone) to get extra fluid out of your 
system.
- You were found to have bacteria growing in your blood, we 
think this infection was caused by your PICC line. Your PICC 
line was taken out and a new one was put in. You were treated 
with antibiotics through your PICC line for 2 weeks.
- We tried to switch you from taking TPN through your PICC line 
for nutrition to tube feeds through your G-tube, but had a very 
difficult time managing your pain and nausea while you were on 
the tube feeds. We even exchanged your G-tube for a different 
G-tube to see if that would help, but it didn't.
- You were seen by our motility team, who specialize in issues 
of moving food through your GI tract, and we tried a medication 
called methylnatrexone to help your GI tract move and improve 
your pain. It seemed to help a little, so we will continue to 
have you take this medicine at home.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- Continue to have TPN through your PICC line and tube feeds 
through your G-tube.
- Continue to take all of your medicines as prescribed.
- You will see your primary care doctor and gastroenterologist 
in the office (see below for details).

It was a pleasure caring for you.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___